US07893085B2
3-Hydroxy-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester
To a cooled (5° C.) stirred solution of 3-chloro-isonicotinic acid ethyl ester (1.11 g, 6.0 mmol) and mercapto-acetic acid ethyl ester (1.8 ml, 16.7 mmol) in anhydrous DMF (20 ml), under an argon atmosphere, was added sodium hydride (15.6 mmol, 60% dispersion in oil, 622 mg) in portions over 20 minutes. Stirring was continued at 5° C. for 20 minutes, followed by 18 hours at room temperature. The reaction mixture was then quenched by the addition of water (5 ml), acidified by the addition of acetic acid (1 ml), and subsequently concentrated to provide a residue. The residue was partitioned between ethyl acetate (150 ml) and water (50 ml). The organic phase was isolated, dried over sodium sulphate, filtered and evaporated to give a yellow oil. The oil was purified by flash chromatography (Si-SPE, pentane:ethyl acetate, gradient 80:20 to 30:70) to afford the title compound as a yellow solid (1.33 g, 99%). LCMS (method B): RT=2.57 min, M+H+=224.

reactant | 3-chloro-isonicotinic acid ethyl ester | 6.0 mmol, 1.11 g | C(C)OC(C1=C(C=NC=C1)Cl)=O | C8H8ClNO2
reactant | mercapto-acetic acid ethyl ester | 16.7 mmol, 1.8 ml | C(C)OC(CS)=O | C4H8O2S
reactant | sodium hydride | 15.6 mmol, 622 mg | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-Hydroxy-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester | 1.33 g, 99% | C(C)OC(=O)C1=C(C=2C(=CN=CC2)S1)O | C10H9NO3S
